US04877899
To a mixture of potassium thiocyanate (5.07 g, 51.7 mmol) in 30 ml of dimethylformamide (DMF) is added 1-bromooctane (5.0 g, 4.5 ml, 25.8 mmol). The mixture is stirred at 45° for 1.5 hours. It is then cooled to 0° and water and ether are added. The ether layer is washed with water and brine and stripped to give octylthiocyanate.

reactant | potassium thiocyanate | 51.7 mmol, 5.07 g | [S-]C#N.[K+]
reactant | 1-bromooctane | 25.8 mmol, 4.5 ml, 5.0 g | BrCCCCCCCC | C8H17Br
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | octylthiocyanate | C(CCCCCCC)SC#N | C9H17NS
